US05629406
0.12 ml (0.72 mmol) of diethyl cyanophosphate and 0.20 ml (1.43 mmol) of triethylamine were added, whilst ice-cooling, to a solution of 160 mg (0.65 mmol) of ethyl 4-methylaminophenoxyacetate (prepared as an intermediate in Preparation 18) and 135 mg (0.72 mmol) of t-butoxycarbonylsarcosine in 2 ml of dimethylformamide, and the mixture was stirred at room temperature for 14 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was diluted with ethyl acetate. The resulting organic mixture was washed with a 5% w/v aqueous solution of citric acid, with a 5% w/v aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order. The reaction mixture was then dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by preparative thin layer chromatography, using a 30:1 by volume mixture of methylene chloride and methanol as the developing solvent, to give 120 mg of ethyl 4-[N-(N-t-butoxycarbonylsarcosyl)-N-methylamino]phenoxyacetate as an oil. In a similar manner to that described in Preparation 15, 200 mg (0.55 mmol) of this compound were hydrolyzed to give 170 mg of the title compound as an amorphous substance.

reactant | diethyl cyanophosphate | 0.72 mmol, 0.12 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 1.43 mmol, 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-methylaminophenoxyacetate | 0.65 mmol, 160 mg | CNC1=CC=C(OCC(=O)OCC)C=C1 | C11H15NO3
reactant | t-butoxycarbonylsarcosine | 0.72 mmol, 135 mg | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[N-(N-t-butoxycarbonylsarcosyl)-N-methylamino]phenoxyacetate | 120 mg | C(C)(C)(C)OC(=O)N(C)CC(=O)N(C)C1=CC=C(OCC(=O)OCC)C=C1 | C19H28N2O6
